US04460579
A mixture of (6-phthalimidohexyl)phosphonic acid, diethyl ester, benzene, and phosphorus pentachloride is refluxed according to the procedure of Example 1(e) to give chloro(6-phthalimidohexyl) phosphinic acid, ethyl ester.

reactant | (6-phthalimidohexyl)phosphonic acid, diethyl ester | C1(C=2C(C(N1CCCCCCP(OCC)(OCC)=O)=O)=CC=CC2)=O | C18H26NO5P
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | chloro(6-phthalimidohexyl) phosphinic acid, ethyl ester | ClP(OCC)(=O)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H21ClNO4P
